US07320972B2
4-{(2S,3R)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate (162.5 mg, 0.30 mmol) and tetrakis(triphenylphosphine)palladium(0) (17.3 mg, 0.015 mmol) were dissolved in toluene (2.5 mL). 2.0 M aqueous potassium carbonate (0.3 mL) and a solution of 4-hydroxyphenylboronic acid (57.9 mg, 0.42 mmol) in ethanol (1.0 mL) were added. The reaction was stirred vigorously for 5 h at refluxing temperature under a nitrogen atmosphere and then diluted with water (2.5 mL), extracted with ethyl acetate (3×10 mL), washed with brine (10 mL), dried over sodium sulfate, filtered, concentrated and purified by chromatography (12 g silica gel, 10% to 100% ethyl acetate-hexane) to afford (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4′-hydroxybiphenyl-4-yl)azetidin-2-one (112 mg, 77% yield) as a clear film; mp 110° C.; Rf 0.5 (1:1 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.5 (d, J=9.0 Hz, 2H) 7.4 (d, J=9.0 Hz, 2H) 7.3 (m, 6H), 6.9 (m, 6H), 4.7 (m, 1H), 4.6 (s, 1H), 3.15 (m, 1H), 2.1-1.9 (m, 4H) ppm; MS [M+H] 486.5.

reactant | 4-{(2S,3R)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate | 0.30 mmol, 162.5 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)(F)F | C25H20F5NO5S
reactant | potassium carbonate | 2.0 M, 0.3 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxyphenylboronic acid | 0.42 mmol, 57.9 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | water | 2.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 17.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3R,4S)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4′-hydroxybiphenyl-4-yl)azetidin-2-one | 112 mg, 77% yield | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C1=CC=C(C=C1)C1=CC=C(C=C1)O)CC[C@H](O)C1=CC=C(C=C1)F)=O | C30H25F2NO3
